US08865736B2
2-(4-Methoxy-phenyl)-thiazole-4-carboxylic acid ethyl ester
To an ice-cold solution of 4-methoxy-thiobenzamide (0.50 g, 2.98 mmol) in ethanol (25 ml) was added triethylamine (0.41 ml, 2.98 mmol) followed by dropwise addition of ethyl bromopyruvate (0.56 ml, 4.40 mmol). The reaction mixture was heated at 65° C. for 12 h. After the completion of the reaction mixture (TLC monitoring), the reaction mixture was evaporated to dryness under reduced pressure, water (25 mL) was added and extracted with ethyl acetate (3×50 mL). The combined organics was washed with water, brine, dried (Na2SO4), filtered and concentrated. The crude residue was purified over silica gel (60-120 M, 10% EtOAc-Hexane) to get the desired product (0.38 g, 48%).

reactant | 4-methoxy-thiobenzamide | 2.98 mmol, 0.50 g | COC1=CC=C(C(=S)N)C=C1 | C8H9NOS
reactant | triethylamine | 2.98 mmol, 0.41 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl bromopyruvate | 4.40 mmol, 0.56 ml | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 2-(4-Methoxy-phenyl)-thiazole-4-carboxylic acid ethyl ester | 0.38 g, 48% | C(C)OC(=O)C=1N=C(SC1)C1=CC=C(C=C1)OC | C13H13NO3S
